US07576063B2
3-Benzyloxy-4-formyl-1,5-diisopropyl-1H-pyrazole
To a solution of 3-benzyloxy-1,5-diisopropyl-1H-pyrazole (0.44 g) in N,N-dimethylformamide (3 mL) was added phosphorus oxychloride (0.31 g) at 80° C., and the mixture was stirred at 80° C. for 30 minutes. After the reaction mixture was cooled to room temperature, a sodium hydroxide aqueous solution (1 mol/L) was added to the reaction mixture. The mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give the title compound (0.42 g).

reactant | 3-benzyloxy-1,5-diisopropyl-1H-pyrazole | 0.44 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(C)C)C(C)C | C16H22N2O
reactant | phosphorus oxychloride | 0.31 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-4-formyl-1,5-diisopropyl-1H-pyrazole | 0.42 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C(C)C)C(C)C | C17H22N2O2
